US04939290
A suspension of triethyl amine (15 ml, 0.11 mol), 2,4-difluoroaniline (25 ml, 0.24 mol), copper bronze (2.7 g., 0.04 mol), in hot DMF (25 ml) was treated with a solution of 2-chloro-4,5-difluorobenzoic acid (23 g., 0.12 mol) in 25 ml of DMF and the temperature was maintained at 85° C. for 8 hours. The reaction mixture was allowed to cool to room temperature and was then stirred overnight. The reaction mixture was evaporated in vacuo and the residue was partitioned between ether and aqueous ammonium chloride. The organic phase was washed with 2N HCl and saturated aqueous lithium chloride solution. The ether was dried over sodium sulfate, treated with darco and then filtered and evaporated. The residue was crystallized from hexane-ether to afford 21.6 g (62%) of 2-(2,4-difluorophenylamino)-4,5-difluorobenzoic acid; m.p.: 215°-216° C.

reactant | triethyl amine | 0.11 mol, 15 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoroaniline | 0.24 mol, 25 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2-chloro-4,5-difluorobenzoic acid | 0.12 mol, 23 g | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | copper bronze | 0.04 mol, 2.7 g | [Cu] | Cu
product | 2-(2,4-difluorophenylamino)-4,5-difluorobenzoic acid | 21.6 g, 62% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)O)C=C(C(=C1)F)F | C13H7F4NO2
